US07968746B2
Following the amide coupling procedure described in protocol A, 500 mg 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid (2.00 mmol), 355 mg CDI (2.20 mmol) and 160 mg t-butylamine (2.20 mmol) produced 125.1 mg of N-tert-butyl-6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxamide as a white crystalline solid.

reactant | 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid | 2.00 mmol, 500 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)O)C)C | C14H18O4
reactant | CDI | 2.20 mmol, 355 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | t-butylamine | 2.20 mmol, 160 mg | C(C)(C)(C)N | C4H11N
product | N-tert-butyl-6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxamide | 125.1 mg | C(C)(C)(C)NC(=O)C1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)C | C18H27NO3
